Name:  ___.              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
two episodes of loss of consciousness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ year-old female with a history of
vasovagal syncope, hypertension, hyperlipidemia, and ocular
migraines who presents with two episodes of loss of 
consciousness
with neurology consulted for seizure vs syncope. 

Ms. ___ was in her usual state of health when she returned
from vacation in ___ on ___ at 2 AM.  Patient says she
woke at 6 AM and was feeling very fatigued and overall unwell. 
She says she had an episode of her atypical ocular migraines in
the morning but it resolved on its own without intervention.  
She
has not had a headache associated with it.  After this she
started to feel nauseous with abdominal cramping and had an
episode of diarrhea.  She remembers getting up and walking out 
of
the bathroom and feeling "drained" with some abdominal cramping. 

The last thing she remembers and then she says that she vaguely
remembers EMS being at her house but cannot say how they got
there remembers them coming into the house.  She was told that
she had passed out and her husband found her face on the floor. 
She was told that she was in and out of consciousness would 
start
to wake back up and then passed back out per her husband and 
this
is what made him called the ambulance.  Per notes, EMS and
patient's husband, who is not at bedside, said that the second
episode of syncope happened when she stood up to get on the
stretcher.  This episode also had full body shaking that lasted
for about 30 seconds.  After this she regained consciousness and
was back at baseline without any reported confusion.  She denied
any tongue biting, urinary incontinence.  Currently she feels
that she is mentally at baseline and feels well other than her
nose hurting and being very tired.

He was initially brought to ___ where she had a CT head that
was read as no acute intracranial process.  On review she has
likely chronic white matter disease, and a very small right
occipital calcified cyst.

Labs at ___ were significant for WBC 5.6, Hgb 14.1, Plts 201.
Potassium was mildly low at 3.4, Na 137. 

She was transferred to ___ ED for evaluation by neurology as the
hospitalist on-call felt that patient may need an EEG and that
was not able to be done at ___.

Other than feeling tired and having abdominal cramping she 
denies
any dizziness, lightheadedness, chest pain, palpitations,
shortness of breath prior to her syncopal episode.  

Per patient this episode is similar to her prior vasovagal
episodes.  The last episode being about ___ years ago where she
syncopized getting off the T and had a concussion afterwards. 
Prior episodes have been associated with abdominal discomfort,
cramping and diarrhea.  Per patient the syncope has been worked
up at ___ where she had a tilt table test that confirmed
vasovagal syncope.

Per patient she recently had an echo and a carotid ultrasound at
___.  She was told these were normal other than some mild aortic
valve disease.  When asked why she got the study she said she
wanted it because her sister has had some issues with her heart
wanted to have her's evaluated. 

She denies any other head trauma other than concussion 
associated
with her last syncope ___ years ago.  She endorses a history of
viral meningitis about ___ years ago.  No other history of
seizures.

On neuro ROS, positives noted in HPI, the pt denies headache,
loss of vision, blurred vision, diplopia, dysarthria, dysphagia,
lightheadedness, vertigo, tinnitus or hearing difficulty. Denies
difficulties producing or comprehending speech.  Denies focal
weakness, numbness, parasthesiae. No bowel or bladder
incontinence or retention. Denies difficulty with gait.

On general review of systems, positives noted in HPI, the pt
denies recent fever or chills.  No night sweats or recent weight
loss or gain. Denies cough, shortness of breath.  Denies chest
pain or tightness, palpitations.  Denies vomiting, constipation.
No dysuria.  Denies arthralgias or myalgias. Denies rash.
 
Past Medical History:
Hypertension
Vasovagal syncope
Hyperlipidemia
Ocular migraines
Mild aortic stenosis
Osteoporosis
 
Social History:
___
Family History:
Her mother passed away in her ___ from a car accident
Her sister has had strokes and MIs in the past
Brother with hypertension hyperlipidemia
Her father was healthy and lived to the age of ___
There is no family history of seizures or other neurologic
disorders
 
Physical Exam:
ADMISSION 
=========
Vitals: T98.3, HR78, BP113/64, RR21, 94% RA

General: Awake, cooperative, NAD.
HEENT: no scleral icterus noted, MMM, no lesions noted in
oropharynx, dried blood in bilateral nostrils, nose is mildly
erythematous and swollen 
Neck: Supple, no nuchal rigidity, no carotid bruits appreciated 
Pulmonary: breathing non labored on room air 
Cardiac: warm and well perfused, III/IV systolic murmur best
heard at RUSB 
Abdomen: soft, NT/ND, no masses or organomegaly noted.
Extremities: No cyanosis, clubbing or edema bilaterally
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Awake, alert, oriented to self, place, time and
situation. Able to relate history without difficulty. Attentive,
able to name ___ backward without difficulty. Language is fluent
with intact repetition and comprehension. Normal prosody. There
were no paraphasic errors. Pt was able to name both high and low
frequency objects.  Able to read without difficulty. Speech was
not dysarthric. Able to follow both midline and appendicular
commands. The pt had good knowledge of current events. There was
no evidence of apraxia or neglect.

-Cranial Nerves:
PERRL 3 to 2mm and brisk. VFF to confrontation. Fundoscopic exam
performed, revealed crisp disc margins with no papilledema,
exudates, or hemorrhages. EOMI without nystagmus. Normal
saccades. Facial sensation intact to light touch. No facial
droop, facial musculature symmetric.Hearing intact to finger-rub
bilaterally. Palate elevates symmetrically. ___ strength in
trapezii bilaterally. Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
  Delt Bic Tri WrE FFl  FE  IO  IP   Quad  Ham TA   ___
L  5    ___   5    ___     5    5   5      5     5
R  5    ___   5    ___     5    5   5      5     5

-Sensory: No deficits to light touch, pinprick, cold sensation,
proprioception throughout. 

-DTRs:
  Bi Tri ___ Pat Ach
L  3+  2   3+   3+   2
R  3+  2   3+   3+   2

Biceps and brachioradialis reflexes brisk with spread 
bilaterally
Patella with bilateral cross adductors and suprapatella reflexes 

no clonus bilaterally 
Plantar response was withdraw bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF bilaterally. Finger taps are small and 
mildly
uncoordinated bilaterally 

-Gait: Good initiation. mildly wide based normal stride and arm
swing.  Able to walk in tandem but seems to swing her right foot
over further past left foot when doing so. Romberg absent but
does sway 

DISCHARGE
========
max: 37.3 °C (99.1 °F)
Tcurrent: 98.2 °F
HR: 68
BP: 117/69 mmHg
RR: 16 insp/min
SpO2: 99% 
Heart rhythm: SR (Sinus Rhythm)

PHYSICAL EXAM:
General: Awake, cooperative, comfortable sitting up in bed.
HEENT: NC/AT, no scleral icterus noted, moist mucous membranes.
Neck: Supple, No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: warm, well-perfused
Abdomen: non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions.

NEUROLOGIC:

-Mental Status: Awake, alert, oriented to person, place, time 
and
event. Relays history without difficulty. Language is fluent 
with
intact comprehension and normal prosody. There were no 
paraphasic
errors, and speech was not dysarthric. No evidence of apraxia or
neglect.

-Cranial Nerves: PERRL 3 to 2mm and brisk. VFF to confrontation.
EOMI without nystagmus. Facial sensation intact to light touch.
No facial droop, facial musculature symmetric.

-Motor: Normal bulk throughout. No pronator drift bilaterally. 
No
adventitious movements, such as tremor, noted. No asterixis
noted.

-DTRs: deferred 

-___: No intention tremor or dysmetria.

-Gait: Deferred
 
Pertinent Results:
LABS
====
___ 09:51AM BLOOD WBC-5.4 RBC-4.20 Hgb-13.6 Hct-42.0 
MCV-100* MCH-32.4* MCHC-32.4 RDW-12.9 RDWSD-47.6* Plt ___
___ 12:50AM BLOOD Neuts-80.4* Lymphs-11.4* Monos-7.6 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-4.47 AbsLymp-0.63* 
AbsMono-0.42 AbsEos-0.00* AbsBaso-0.01
___ 09:51AM BLOOD Plt ___
___ 09:51AM BLOOD ___ PTT-23.4* ___
___ 12:50AM BLOOD Plt ___
___ 12:50AM BLOOD ___ PTT-22.1* ___
___ 09:51AM BLOOD Glucose-178* UreaN-12 Creat-0.8 Na-140 
K-4.1 Cl-108 HCO3-19* AnGap-13
___ 09:51AM BLOOD Calcium-8.5 Phos-2.0* Mg-3.3* Cholest-152
___ 07:48PM BLOOD %HbA1c-5.5 eAG-111
___ 09:51AM BLOOD Triglyc-94 HDL-86 CHOL/HD-1.8 LDLcalc-47

IMAGING
=======
MR ___ and WO CONTRAST
IMPRESSION:
1. A punctate focus of slow diffusion in the left occipital 
lobe, without
definite correlate on T2 weighted imaging, likely representing 
acute/the early
subacute infarct.
2. Right occipital cyst measuring up to 1.2 cm without 
associated edema or
restricted diffusion.  Given its location, this likely 
represents an
porencephalic cyst as opposed to an ependymal cyst as a clear 
connection with
the ventricle is not discerned, a benign entity.
3. 5 mm aneurysm incidentally noted at the right M1/M2 
bifurcation.

CTA W and WO CONTRAST
IMPRESSION:
1. No acute intracranial abnormalities.
2. No evidence of large vessel occlusion or high-grade stenosis.
3. 5 mm saccular aneurysm arising from the right MCA 
bifurcation.
4. 20% narrowing of the proximal right internal carotid artery 
by NASCET
criteria due to calcified plaque.  No left internal carotid 
artery stenosis by
NASCET criteria.
5. 3 mm hypodense nodule within the right lobe of the thyroid.
 
RECOMMENDATION(S):  Thyroid nodule.  No follow up recommended.
Absent suspicious imaging features, unless there is additional 
clinical
concern, ___ College of Radiology guidelines do not 
recommend further
evaluation for incidental thyroid nodules less than 1.0 cm in 
patients under
age ___ or less than 1.5 cm in patients age ___ or ___.
 
Suspicious findings include: Abnormal lymph nodes (those 
displaying
enlargement, calcification, cystic components and/or increased 
enhancement) or
invasion of local tissues by the thyroid nodule.
 
___, et al, "Managing Incidental Thyroid Nodules Detected on 
Imaging: White
Paper of the ACR Incidental Findings Committee". J ___ 
___ ___
12:143-150.

 
Brief Hospital Course:
PATIENT SUMMARY:
================
Mrs. ___ is a ___ female with a history of 
vasovagal syncope, hypertension, hyperlipidemia, ocular 
migraines, and mild aortic stenosis who presented after 2 
syncopal events 1 of which was associated with 30 seconds of 
full body shaking.

On imaging, head CT ruled out hemorrhage. Given her recent 
travel to ___, an MRI of the brain was obtained to rule 
out acute infectious process which could precipitate seizures. 
This revealed a 1.2 x 0.8 cm left occipital lobe acute/early 
subacute infarct. 

This very small infarct was felt to be entirely unrelated to her 
presenting symptoms given the location (left occipital lobe) and 
small size. 

Etiology of her syncopal episodes felt to be vasovagal syncope 
in the setting of dehydration from recent GI illness. She has 
had similar syncopal episodes in the past which have also been 
triggered by diarrhea and abdominal cramping in the past. 
Shaking movements observed after the syncopal event most likely 
represent convulsive syncope. Routine extended EEG was obtained 
to rule out epileptiform discharges. This was unremarkable.

With respect to etiology of stroke, the patient underwent TTE 
with bubble study to assess for PFO. This was negative and 
showed no ASD or PFO. She also underwent lower extremity 
ultrasound duplex studies (given recent plane ride) which 
revealed no DVT in either leg. 

The patient was discharged with a Ziopatch for extended cardiac 
monitoring given concern for cardio-embolic etiology. She was 
also started on 81 mg aspirin daily as secondary prevention. LDL 
47 so statin dose was not changed. 

TRANSITIONAL ISSUES:
====================
# Patient had Ziopatch placed prior to discharge to assess for 
occult atrial fibrillation. Please follow up read in outpatient 
setting.

# Started aspirin 81 mg daily.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Losartan Potassium 50 mg PO DAILY 
2. amLODIPine 5 mg PO DAILY 
3. Rosuvastatin Calcium 20 mg PO QPM 
4. coenzyme Q10 100 mg oral DAILY 
5. Vitamin D 1000 UNIT PO DAILY 
6. Reclast (zoledronic acid-mannitol-water) 5 mg/100 mL 
injection qMonth 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*3 
2.  amLODIPine 5 mg PO DAILY  
3.  coenzyme Q10 100 mg oral DAILY  
4.  Losartan Potassium 50 mg PO DAILY  
5.  Reclast (zoledronic acid-mannitol-water) 5 mg/100 mL 
injection qMonth  
6.  Rosuvastatin Calcium 20 mg PO QPM  
7.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left occipital ischemic stroke
Aortic stenosis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,  
 
 ___ were hospitalized due to symptoms of syncope and abnormal 
movements. While in the emergency room, ___ had an MRI of your 
brain which revealed an ACUTE ISCHEMIC STROKE, a condition where 
a blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. We believe that this is unrelated to the 
symptoms that ___ presented with. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms.  
 
 Stroke can have many different causes, so we assessed ___ for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
 - High blood pressure
  
 We are changing your medications as follows:  
 - Started a baby aspirin (81 mg per day)
  
 Please take your other medications as prescribed.  
 Please follow up with Neurology and your primary care physician 
as listed below.  

 If ___ experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
___  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  
 
Sincerely,  
Your ___ Neurology Team  

 
Followup Instructions:
___